US07825135B2
2,4-Dichloro-N-{[1-[(ethylamino)sulfonyl]-4-(3-fluoropyridin-2-yl)piperidin-4-yl]methyl}benzamide
A solution of N-ethyl-2-hydroxyl-benzenesulfonamide (30 mg, 0.137 mmol) and 2,4-dichloro-N-{[4-(3-fluoropyridin-2-yl)piperidin-4-yl]methyl}benzamide (57.5 mg, 0.150 mmol) (prepared by the method in Example 1) in dioxane (2 ml) was refluxed under nitrogen for 4.5 hours. The mixture was allowed to cool then poured into 1 M HCl solution and extracted with diethyl ether (2×20 ml). The organic phase was washed with water (20 ml) and brine (20 ml), dried over MgSO4, filtered, and evaporated. The crude product was purified by preparatory TLC eluted with 50% ethyl acetate in isohexane to give the title product as a white foamy solid. 1H NMR δ (ppm)(CDCl3): 8.39-8.35 (1 H, m), 7.55 (1 H, d, J=8.4 Hz), 7.43-7.35 (2 H, m), 7.30-7.01 (2 H, m), 6.76-6.69 (1 H, m), 4.00-3.94 (3 H, m), 3.54-3.45 (2 H, m), 3.26-3.20 (2 H, m), 3.17-3.09 (2 H, m), 2.74-2.63 (2 H, m), 1.88-1.80 (2 H, m), 1.19 (3 H, t, J=7.2 Hz). m/e=489/491 (3:2).

reactant | N-ethyl-2-hydroxyl-benzenesulfonamide | 0.137 mmol, 30 mg | C(C)NS(=O)(=O)C1=C(C=CC=C1)O | C8H11NO3S
reactant | 2,4-dichloro-N-{[4-(3-fluoropyridin-2-yl)piperidin-4-yl]methyl}benzamide | 0.150 mmol, 57.5 mg | ClC1=C(C(=O)NCC2(CCNCC2)C2=NC=CC=C2F)C=CC(=C1)Cl | C18H18Cl2FN3O
reactant | HCl | 1 M | Cl | ClH
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 2,4-Dichloro-N-{[1-[(ethylamino)sulfonyl]-4-(3-fluoropyridin-2-yl)piperidin-4-yl]methyl}benzamide | ClC1=C(C(=O)NCC2(CCN(CC2)S(=O)(=O)NCC)C2=NC=CC=C2F)C=CC(=C1)Cl | C20H23Cl2FN4O3S
